US06034127
b) 3-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxyl]-5-methylphenyl ester
Diethyl azodicarboxylate (349 mg, 2.0 mmol) was added to a solution of 3-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester (600 mg, 2.0 mmol), as prepared in the preceding step, N-tert-butoxycarbonyl-4-piperidinemethanol (430 mg, 2.0 mmol), as prepared in step (b) of Example 1, and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (20 mL) at 0° C.

reactant | Diethyl azodicarboxylate | 2.0 mmol, 349 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 2.0 mmol, 600 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)Cl | C13H11ClO4S
reactant | N-tert-butoxycarbonyl-4-piperidinemethanol | 2.0 mmol, 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxyl]-5-methylphenyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)Cl | C24H30ClNO6S
